US04720490
(3SR,4RS)-3-(1-hydroxy-1-methylethyl)-2-oxoazetidine-4-yl-acetic acid benzylester
To an ice-cold solution of 3.7 g 1-tert.butyldimethylsilyl-2-oxo-3-(trans)-(1-hydroxy-1-methylethyl)azetidine-4-yl-acetic acid benzylester in 130 ml of methanol/water (9/1) are added 6.6 ml of conc. HCl. This mixture is stirred for 30 minutes at 0° and 31/2 hours at 25°. The solution is concentrated and the residue taken up in ethylacetate, washed once with aq. NaCl, dried over MgSO4 and evaporated to dryness to yield the title compound

reactant | 1-tert.butyldimethylsilyl-2-oxo-3-(trans)-(1-hydroxy-1-methylethyl)azetidine-4-yl-acetic acid benzylester | 3.7 g | C(C1=CC=CC=C1)OC(C([C@H]1[C@@H](C(N1C(C)(C)C)=O)C(C)(C)O)[SiH](C)C)=O | C21H33NO4Si
reactant | HCl | 6.6 ml | Cl | ClH
solvent | methanol water | 130 ml | CO.O
product | (3SR,4RS)-3-(1-hydroxy-1-methylethyl)-2-oxoazetidine-4-yl-acetic acid benzylester | C(C1=CC=CC=C1)OC(CC1C(C(N1)=O)C(C)(C)O)=O | C15H19NO4
